* C:\Users\Abril\Documents\GitHub\ASSD-2020-G4\TP1 - Muestreo\SPICE FINAL\muestreo_natural.asc
V1 vcc 0 15
V2 -vcc 0 -15
V3 N004 0 PULSE(0 5 1n 1n 1n 6.67u 13.34u)
V4 N001 0 SINE(0 1 2k 0 0 90)
XX1 N004 N002 N003 analog-switch
XX2 N001 vcc -vcc N002 lprauch
XX3 N003 vcc -vcc out lprauch

* block symbol definitions
.subckt analog-switch CTRL Vin Vout
S1 Vin Vout CTRL 0 SW
R2 Vout 0 1k
.model SW SW(Ron=240 Roff=10T Vt=1.75 Vh=1.05 )
.ends analog-switch

.subckt lprauch Vin Vcc Vee Vout
XX1 Vin 0 Vcc Vee N001 low-pass-rauch-block1
XX2 N001 0 Vcc Vee N002 low-pass-rauch-block2
XX3 N002 0 Vcc Vee N003 low-pass-rauch-block3
XX4 N003 0 Vcc Vee Vout low-pass-rauch-block4
.ends lprauch

.subckt low-pass-rauch-block1 Vin GND Vcc Vee Vout
XU1 0 N002 Vcc Vee Vout TL082
R1 N001 Vin 1k
R2 N002 N001 2.0806k
R3 N001 Vout 1k
C1 N001 0 36n
C2 Vout N002 100p
.ends low-pass-rauch-block1

.subckt low-pass-rauch-block2 Vin GND Vcc Vee Vout
XU1 0 N002 Vcc Vee Vout TL082
R1 N001 Vin 1k
R2 N002 N001 9.25k
R3 N001 Vout 1k
C1 N001 0 13.9n
C2 Vout N002 100p
.ends low-pass-rauch-block2

.subckt low-pass-rauch-block3 Vin GND Vcc Vee Vout
XU1 0 N002 Vcc Vee Vout TL082
R1 N001 Vin 1k
R2 N002 N001 25.5k
R3 N001 Vout 1k
C1 N001 0 8.77n
C2 Vout N002 100p
.ends low-pass-rauch-block3

.subckt low-pass-rauch-block4 Vin GND Vcc Vee Vout
XU1 0 N002 Vcc Vee Vout TL082
R1 N001 Vin 1k
R2 N002 N001 59.9k
R3 N001 Vout 1k
C1 N001 0 7.10n
C2 Vout N002 100p
.ends low-pass-rauch-block4

.tran 0 2m 0
.lib C:\Users\Abril\Documents\GitHub\ASSD-2020-G4\TP1 - Muestreo\Filtro LP\SPICE\TL082.301
.backanno
.end
